US06103667
Example P13: 3-(4-Chloro-2-fluoro-5-propargyloxyphenyl)-4-methyl-5-(methylsulfinyl)-1-methyl-[1H]-pyrazole
A solution of 1.57 g (0.005 mol) of 50-60% 3-chloroperbenzoic acid in 30 ml of dichloromethane is added dropwise at 0-5° C. to a solution of 1.7 g (0.005 mol) of 3-(4-chloro-2-fluoro-5-propargyloxyphenyl)-4-methyl-5-(methylthio)-1-methyl-[1H]-pyrazole (Example P12) in 20 ml of dichloromethane. After being stirred overnight at 22° C., the reaction mixture is washed with a dilute sodium hydrogen carbonate solution, then with water and concentrated by evaporation, and the resulting residue is recrystallised in petroleum ether/diethyl ether. 1.5 g (88.2% of the theoretical yield) of the desired compound are isolated in the form of crystals having a melting point of 93-96° C.

reactant | 3-chloroperbenzoic acid | 0.005 mol, 1.57 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-(4-chloro-2-fluoro-5-propargyloxyphenyl)-4-methyl-5-(methylthio)-1-methyl-[1H]-pyrazole | 0.005 mol, 1.7 g | ClC1=CC(=C(C=C1OCC#C)C1=NN(C(=C1C)SC)C)F | C15H14ClFN2OS
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-(4-Chloro-2-fluoro-5-propargyloxyphenyl)-4-methyl-5-(methylsulfinyl)-1-methyl-[1H]-pyrazole | ClC1=CC(=C(C=C1OCC#C)C1=NN(C(=C1C)S(=O)C)C)F | C15H14ClFN2O2S
